* source TEST
V_V1         N09437 0 100
V_V27         N44418 0   PWL    
+ FILE "C:\Users\29721\Desktop\prectice\out1.txt" 
V_V29         N10783 0   PWL    
+ FILE "C:\Users\29721\Desktop\prectice\out3.txt" 
V_V30         N11028 0   PWL    
+ FILE "C:\Users\29721\Desktop\prectice\out4.txt" 
V_V35         N10288 0   PWL    
+ FILE "C:\Users\29721\Desktop\prectice\outnew2.txt" 
R_R1         0 N107304  100 TC=0,0 
R_R2         0 N110116  100 TC=0,0 
D_D10         N101997 N09437 D1N4002 
D_D11         N96748 N09437 D1N4002 
D_D12         N107304 N101997 D1N4002 
D_D13         N110116 N96748 D1N4002 
Z_Z1         N09437 N44418 N101997 IXGH40N60
Z_Z13         N09437 N10288 N96748 IXGH40N60
Z_Z14         N101997 N10783 N107304 IXGH40N60
Z_Z15         N96748 N11028 N110116 IXGH40N60
