*******************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *********
*******************************************************************
*											*
* Models provided by STMicroelectronics are not guaranteed to	*
* fully represent all the specifications and operating		*
* characteristics of the product behavior that they reproduce.	*
* The model describes the characteristics of a typical device.	*
* In all cases, the current product data sheet contains all		*
* information to be used like final design guidelines and the	*
* only actual performance specification.					*
* Altough models can be a useful tool in evaluating device		*
* performance, they cannot model exact device performance under	*
* all conditions.									*
* STMicroelectronics therefore does not assume any			*
* responsibility arising from their use.					*
* STMicroelectronics reserves the right to change models		*
* without prior notice.								*
*											*
* Note: The model doesn't take into account the drain, gate,	*
* source inductances.If these contributions have to be		*
* considered it is possible include the inductors externally.	*
* For this package the values can be estimated as follow		*
*											*
* Ldrain= 1nH ,Lsource=2nH and Lgate=2.5nH				*
*											*
* Rev 1.5 - 07 Feb 2014		      				*
*****************************************************************

********************************************************
.SUBCKT STGW40H65DFB-V2 1 2 3 

************************** termiche *****************************************
E1 Tj val_T VALUE={TEMP}
R1 val_T 0 1E-03


EDiode Tj-Diode dio_T VALUE={TEMP}
RDiode dio_T 0 1E-03


**************************Co-pk Diode*************************************



.FUNC Rdiodoco(rdidco) {rdid0co*((rdidco+273)/300)**(rdid_tempco)}

.PARAM rdid0co={2.2} rdid_tempco=0.1

R_CO 1 d1zco 10

G_R_didd 1 d1zco VALUE={200*(V(1,d1zco)/Rdiodoco(V(TJ-Diode)))}

V_dico d1zco dico2 0

G_diode 3 dico2 VALUE={I_dico(V(3,dico2),v(Tj-Diode))}

R_x 3 dico2 1E9

.FUNC I_dico(z3dio,k3dio) {(exp(min(-15+z3dio/(dico(k3dio)),7))-1n)}
.FUNC dico(k4dio) {0.071-140E-06*k4dio}



********************************DIODO AK ********************************

V_bjt 1 1z 0

G_anodo1 1z a1  VALUE={I_diode(V(1z,a1),v(Tj))}
r_escusione 1z a1 500

G_Anodo 1y a1 VALUE={(V(1y,a1)/Rdiodo(V(TJ)))}
r_conv1 1y a1 10


.FUNC I_diode(z3,k3) {(exp(min(-15+z3/(did(k3)),7))-1n)}

.FUNC did(k4) {0.069-10E-06*k4}

.FUNC Rdiodo(rdid) {rdid0*((rdid+273)/300)**(rdid_temp)}


.PARAM rdid0={0.0001} rdid_temp=2.0

.PARAM  kpsat0=70 kplin0=105 drs=60m


***********************************************************



************************* Itail_1 *********************************
R_R003 aa 0 500E06
R_edep 1y d_dedep 10
G_edep a1 d VALUE={(v(1z,d_dedep))/(200-0.66*v(tj))}
E_Eds d_dedep edep VALUE {-V(aa,0)*15}
C_Cds edep 3 5E-12
E_E001 ba 0 VALUE {-2*((V(Tj)))*I(V_BJT)}
R_R001 aa ba 1
C aa 0 1E-12
***********************************************************

*******************************************************************
*E1 Tj val_T VALUE={TEMP}
*R1 val_T 0 1E-03
***********************************************************
Rtk Tj 0 1E10
Rtk1 Tj 0 1E10
************************************
VLd 1y d1k 0
VLs ss 3c 0
VLG 2 g2 0
*rg1 g2 g {rg}
Grg1 g2 g VALUE ={V(g2,g)/(0.0025*V(tj)+0.64)}
*******************************************************************
.PARAM Area=1  
***************************************************
.PARAM  rg=1.65 Vth0=7.0
.PARAM  lambda=0.0000071 


.PARAM  rd=2.7m 
.PARAM  rpa=1E-05

***********************************
.PARAM  unt =-1.7 vthx=4.5m ksat=-1 klin= -1
.PARAM  a=1 b=1 Rx=0.5

E_soglia soglia 0 value {vth1(V(TJ))}
R_soglia soglia 0 1


***********************************************************
.FUNC r_s(T) {((T+273)/300)**(unt)/drs}
.FUNC vth1(x) {vth0-vthx*(x-27)}
.FUNC kpsat(x) {kpsat0*((x+273)/300)**(ksat)}
.FUNC kplin(x) {kplin0*((x+273)/300)**(klin)}
.FUNC un(T) {b*((T+273)/300)**(unt)}

***********************************************************
***********************************************************
Gmos d s value {(IF(v(g,s)<vth1(V(TJ)),0,
+(IF((V(d,s)<(v(g,s)-vth1(V(TJ)))*kpsat(v(TJ))/kplin(v(TJ))),(1+LAMBDA*v(d,s))*kplin(v(TJ))/2*v(d,s)*
+(2*(v(g,s)-vth1(V(TJ)))-kplin(v(TJ))/kpsat(v(TJ))*v(d,s)),
+(1+LAMBDA*v(d,s))*kpsat(v(TJ))/2*(v(g,s)-vth1(V(TJ)))**2))))}

G_RMos d1k dd VALUE={Area*((un(V(TJ))*(V(d1k,d)))/(rd+rpa*((I(V_sense)**a))**Rx))}


V_grss s ss 0
G_rs 3c 3 VALUE={(Area*(r_s(V(TJ))*v(3c,3))/drs)}

R_Grs 3c 3 1E03

R_Rmos d1k dd 1E03
V_sense dd d 0
***********************************************************
rdd dd 0 1E10
rdd1 d 0 1E10
rdd3 s 0 1E10
R_DS d s 1E10
***********************************************************
CGS g 3  {5400p*Area}
R_CGS g 3 500E06
***********************************************************
Cref 40 0 1E-12
E2 40 50 value {V(g,d1k)}
V2 50 0 0
Gcdg d1k g value {1.0*Area*V(alfa)*i(V2)*1E12}
Rcap 0 alfa 1E03
Ecap alfa 0 TABLE = {V(d1k,3)}
+(0.1,10551p) 
+(0.2,8324p) 
+(0.5,7112p) 
+(1,6051p) 
+(2,5223p) 
+(3,4525p) 
+(5,3544p) 
+(7,3104p) 
+(10,2269p) 
+(15,1537p) 
+(20,619p) 
+(25,207p) 
+(30,98p) 
+(40,85p) 
+(50,76p) 
+(100,54p) 
+(150,45p) 
+(200,39p) 
+(250,35p) 
+(300,33p) 
+(350,31p) 
+(400,31p) 
+(450,31p) 
+(500,31p) 
+(550,32p) 
+(600,32p) 
+(650,32p) 


**************************Co*******************************
Cref2 402 0 1E-12
E22 402 502 value {V(ss,d1k)}
V22 502 0 0

Rsensing d1k d1kx 1m
Vsensing d1kx d1kxx 0
Gtail d1k ss value {1*I(Vsensing)*(0.255*v(tj)+1.5)}

***********************************************************

Gcdg2 d1kxx ss value {1*Area*V(alfa2)*i(V22)*1E12}
Rcap2 0 alfa2 100E03
Ecap2 alfa2 0 TABLE = {V(d1k,ss)}
+(0.1,4089p) 
+(0.2,3514p) 
+(0.5,1986p) 
+(1,1118p) 
+(2,702p) 
+(3,560p) 
+(5,433p) 
+(7,367p) 
+(10,308p) 
+(15,252p) 
+(20,221p) 
+(25,198p) 
+(30,182p) 
+(40,159p) 
+(50,143p) 
+(100,105p) 
+(150,88p) 
+(200,79p) 
+(250,73p) 
+(300,68p) 
+(350,65p) 
+(400,63p) 
+(450,62p) 
+(500,61p) 
+(550,61p) 
+(600,60p) 
+(650,60p) 



************************BVCES******************************
V_BVCES   1z BVCES1 0
R_bvdss	BVCES1 d1bvdss1 1
V_bvdss	d1bvdss1 d1bvdss2 0
G_bvd	d1bvdss2 3 VALUE={I_BVDSS(V(d1bvdss2,3),v(Tj))}
R_GBDSS	d1bvdss2 0 1E9
.FUNC I_BVDSS(z,k1) {(exp(min(-355+z/(bvd(k1)),10))-250n)}
.FUNC bvd(k) {2+0.0016*k}

***********************************************************


.ENDS STGW40H65DFB-V2

*$
